US05200415
Synthesis of 2,7-dimethylpyrazolo[1,5-a]pyridine-3-carboxylic acid
To 1.00 g (4.6 mmol) of ethyl 2,7-dimethylpyrazolo[1,5-a]pyridine-3-carboxylate prepared in accordance with the procedure disclosed in "YAKUGAKU ZASSHI", 91(11), 1154-1157 (1971), 5 ml of 3N aq. NaOH solution and 2 ml of ethanol were added, followed by stirring at 100° C. for 8 hours. After the reaction, the solvents were distilled off, and the residue was dissolved in water and then washed with benzene. The aqueous layer was made acidic with concentrated hydrochloric acid. Crystals precipitated were collected by filtration and then washed with water. Yield: 0.85 g (4.5 mmol) (97%).

reactant | ethyl 2,7-dimethylpyrazolo[1,5-a]pyridine-3-carboxylate | 4.6 mmol, 1.00 g | CC1=NN2C(C=CC=C2C)=C1C(=O)OCC | C12H14N2O2
reactant | NaOH | 3N, 5 ml | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2,7-dimethylpyrazolo[1,5-a]pyridine-3-carboxylic acid | CC1=NN2C(C=CC=C2C)=C1C(=O)O | C10H10N2O2
